US07888349B2
tert-Butyl 2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethylcarbamate (17.9 g, 48.1 mmol), prepared as described in U.S. Pat. No. 6,545,016 Example 23, Parts A through C, was dissolved in chloroform (250 mL). Ethyl 2-chloroacetimidate hydrochloride (15.2 g, 96 mmol) was added to the solution and the reaction mixture was stirred at 60° C. for 5 hours. Additional ethyl 2-chloroacetimidate hydrochloride (1.9 g) was added to the reaction mixture and stirred for 0.5 hours. The reaction mixture was cooled and filtered. The filtrate was diluted with chloroform (250 mL), washed with brine (2×300 mL), and the layers were separated. The combined organics were dried over magnesium sulfate, filtered with CELITE filter aid, and concentrated under reduced pressure. The material was recrystallized and filtered from acetonitrile to yield 13.28 g of tert-butyl 2-[2-(chloromethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]ethylcarbamate as a white solid.

reactant | tert-Butyl 2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethylcarbamate | 48.1 mmol, 17.9 g | NC=1C(=NC(=C(C1NCCNC(OC(C)(C)C)=O)C)C)OC1=CC=CC=C1 | C20H28N4O3
reactant | Ethyl 2-chloroacetimidate hydrochloride | 96 mmol, 15.2 g | Cl.ClCC(OCC)=N
reactant | ethyl 2-chloroacetimidate hydrochloride | 1.9 g | Cl.ClCC(OCC)=N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-[2-(chloromethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]ethylcarbamate | 13.28 g | ClCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCNC(OC(C)(C)C)=O | C22H27ClN4O3
